Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Reglan / Imitrex / Morphine / Zofran
 
Attending: ___
 
Chief Complaint:
Abdominal pain.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ woman with past medical history 
significant for cystic fibrosis gene mutation causing chronic 
pancreatitis, acute ischemic colitis, chronic pain, 
polysubstance abuse, major depressive disorder with suicide 
attempts (including while hospitalized at ___, and 
cardiomyopathy (EF 50-55% in ___ recently admitted 
___ for recurrent acute pancreatitis presenting with 
abdominal pain x2 days.

Patient reports that she was in her USOH since leaving the 
hospital until until she began experiencing epigastric pain 
starting ___ AM. She reports it as insidious onset 
gradually worsening epigastric pain that radiaties across her R 
abdomen to the back with associated with nausea and non-bloody 
vomiting (x4 episodes). No fevers, chills, diarrhea, or bloody 
stools. She reports last BM was yesterday, pale and somewhat 
"mucous-y." Pain is typical of pancreatitis episodes though she 
reports Never had before. No dysuria, chest pain, or sob.  

In the ED, initial VS were T98.4, HR 52, BP 154/106, RR18, 98% 
RA  
 Exam notable for  
 Labs showed  
 BMP:  
 140 103 12 AGap=17  
 ------------< 86  
 3.7 24 0.8  
 CBC:  
 7.2 10.8 273  
 34.0  
 LFTs:  
 ALT: 34 AP: 174 Tbili: <0.2 Alb: 3.9  
 AST: 23 LDH:  
 Lip: 43  
 UTox: positive for barbituates, opiates, and methadone.  
 Imaging showed CT scan negative  
 Received NS 100 cc/hr, dil ___ q3, toradol 30 q8, promethazine 
25 q6, lorazepam ___ m g q4  
 Transfer VS were T98.2, HR92, BP155/88, RR16, 97% RA  
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports continued abdominal 
pain per above, improved by medications in ED. Denies any or 
prior CP/SOB. Reports significant fatigue with number of recent 
hospitalizations. Endorses significant pruritis ___ pain 
medication. 

 REVIEW OF SYSTEMS:  
 (+) per above
 (-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
- Chronic Pancreatitis  
  * Diagnosed in ___ with secretin test-- peak bicarb 54, 
however previous CT abdomen and MRCP with no evidence of acute 
or chronic pancreatitis
  * s/p J-tube placement ___ for poor nutrition, J tube 
nonfunctional    
- C. difficile associated diarrhea (___)
- Depression: s/p suicide attempts (including trying to hang  
herself while hospitalized at ___ ___
- Anxiety 
- polysubstance abuse 
- Left Upper Extremity DVT (___)  
- Left Axillary and Proximal Brachial Vein Thrombus (US 
___  
- Cardiomyopathy: LVEF 30% > 50% in ___, > 50-55% ___  
- Hypertension  
- Iron deficiency anemia  
- Migraine headaches  
- Vitamin D deficiency 
- Seizure disorder
 
Social History:
___
Family History:
- Adopted at age ___ along with half sister
- Mother: ___ cancer and ovarian cancer in her ___.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS:  ___.9 PO 126 / 86 Sitting 78 16 95 RA 
 GENERAL: NAD  
 HEENT: NCAT, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: +BS distended, tender to light palpation in epigastric 
and RUQ. No rebound / guarding
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
=========================
VS: T 98.8, 127 / 92, 87, 18, 96 RA 
 GENERAL: NAD  
 HEENT: NCAT, EOMI, MMM
 NECK: nontender supple neck, no LAD
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: +BS, distended and tender to palpation in epigastric 
region. No rebound / guarding
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: no gross motor/coordination abnormalities  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
======================
___ 08:57AM BLOOD WBC-7.2 RBC-3.90 Hgb-10.8* Hct-34.0 
MCV-87 MCH-27.7 MCHC-31.8* RDW-13.4 RDWSD-42.5 Plt ___
___ 08:57AM BLOOD Neuts-64.0 ___ Monos-5.6 Eos-0.0* 
Baso-0.0 Im ___ AbsNeut-4.58 AbsLymp-2.15 AbsMono-0.40 
AbsEos-0.00* AbsBaso-0.00*
___ 08:57AM BLOOD Glucose-86 UreaN-12 Creat-0.8 Na-140 
K-3.7 Cl-103 HCO3-24 AnGap-17
___ 08:57AM BLOOD ALT-34 AST-23 AlkPhos-174* TotBili-<0.2
___ 05:24PM BLOOD Calcium-8.6 Phos-3.6 Mg-2.0
___ 08:57AM BLOOD Albumin-3.9
___ 08:57AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-POS*
___ 08:57AM BLOOD HCG-<5

MICROBIOLOGY:
=====================
None this admission

IMAGING:
=======================
1. No acute intra-abdominal abnormality.  Specifically, no 
evidence for
appendicitis or pancreatitis.
2. Large stool burden throughout the colon.
3. Unchanged mild intrahepatic biliary duct dilation likely 
related to prior
cholecystectomy.

DISCHARGE LABS:
======================
___ 06:50AM BLOOD WBC-5.8 RBC-3.28* Hgb-9.2* Hct-29.0* 
MCV-88 MCH-28.0 MCHC-31.7* RDW-14.5 RDWSD-46.6* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-74 UreaN-5* Creat-0.8 Na-140 
K-3.2* Cl-102 HCO3-26 AnGap-15
___ 06:50AM BLOOD ALT-91* AST-50* AlkPhos-346* TotBili-0.2
___ 06:50AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year old F with history of CFTR gene mutation, 
chronic pancreatitis, chronic pain, polysubstance abuse, major 
depressive disorder, HF with recovered ejection fraction, 
presenting with abdominal pain, nausea, and vomiting concerning 
for recurrent acute on chronic pancreatitis.

# Acute on chronic pancreatitis: Abdominal pain, nausea, and 
vomiting likely due to recurrent pancreatitis. Abdominal pain 
similar to prior episodes, but with new pain on the R side of 
the abdomen. Lipase on admission was normal. CT abdomen with no 
acute processes, specifically appendicitis or pancreatitis. She 
was last hospitalized at the beginning of ___. Patient was 
started on IV medications per protocol established in 
collaboration with the patient and her PCP ___ documented 
in her ___ chart and in additional note in OMR. She was 
hydrated with IV D5NS while she was NPO and as her symptoms 
improved, her diet was advanced as tolerated. Her home PO 
medications were also re-started, slowly, with a few pills 
started each day (beginning with lamotrigine and seroquel, then 
anti-hypertensives, then other medications). During this 
admission, several discussions were had with long-term 
providers, Dr. ___, who have discussed possible 
modification of the pain protocol, given that she is requiring 
to come in more frequently, but coming in earlier/more 
pre-emptively during her pain episodes. Ms. ___ was open to 
attempting PO medications and PO diet more early in the course 
and would like to continue having these discussions as an 
outpatient.

# Positive UTox:
UTox is positive for opiates, methadone, and barbituates. 
Methadone has cross-reactivity to the seroquel that the patient 
takes, and the barbituates are due to the fioricet. However, the 
patient is not on any narcotic medications and reports no 
narcotic use at home. She has a script for tramadol, but per 
chemistry lab, this would not cause a positive opiate screen. 
Per time-stamps, dilaudid was given ~1 hour prior to Utox 
collection in the ED, which is not enough time for the opiate to 
make it to the urine. However, time stamps are often inaccurate 
and given that patient was not urinating as much when she 
arrived, it is possible that the positive opiate screen came 
from the dilaudid. Mass spec was sent for confirmation of the 
opiates and will require follow up. These results were discussed 
with Ms. ___, who reports possibly taking one or two 
unidentified pills at home once (thinking it was ativan), but is 
otherwise not taking any narcotics or other recreational 
opiates.

# Transaminitis
Patient has elevated AST, ALT, and alk phos on this admission. 
Has had this on previous admissions with pain flares, but alk 
phos is more elevated on this admission compared to prior (353, 
prior admissions 100s-200s). Unclear etiology given CT abdomen 
without only chronic changes. LFTs were trended and remained 
stable.

# Hypertension: BP as high as 188/119 without symptoms, likely 
___ clonidine withdrawal. Lisinopril and clonidine were held 
during the first couple of days of her inpatient stay when she 
did not tolerate PO meds. Once the patient started being able to 
tolerate PO medications, her home medications were restarted. As 
on her prior admission, the patient reports feeling very weak 
and lightheaded after taking clonidine, and it may be beneficial 
to switch her to a different antihypertensive. 

# Seizure: Her last seizure was in ___ from benzodiazepine 
withdrawal. She continued her lamotrigine while in the hospital. 


# Anxiety: She was continued on Ativan per pain protocol. 

# Depression: She was continued on her home Seroquel. 
Amitryptiline was held per patient request with her nausea, 
given that she experiences discomfort if regurgitated. It was 
re-started at discharge.

# GERD: Omeprazole was continued once she began to tolerate PO.

TRANSITIONAL ISSUES
==============
- continue to have discussions about modifying the pain protocol 
as an outpatient
- ensure that any modification of the pain protocol is 
documented into webOMR for future housestaff to use
- follow up on UTox mass-spec.
- consider different anti-hypertensive given that clonidine 
sometimes make the patient feel lightheaded
- CODE: FULL (presumed)
- CONTACT: ___ (PARTNER ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN headache 
2. Amitriptyline 100 mg PO QHS 
3. Creon 12 4 CAP PO QIDWMHS 
4. Docusate Sodium 100 mg PO BID 
5. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line flush 

6. Lisinopril 20 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Promethazine 25 mg IM Q8H:PRN severe nausea 
9. QUEtiapine Fumarate 400 mg PO BID 
10. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID mouth 
lesions 
11. Vitamin D ___ UNIT PO 1X/WEEK (___) 
12. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
13. LamoTRIgine 200 mg PO QHS 
14. LORazepam 2 mg PO QHS:PRN insomnia 
15. LORazepam 1 mg PO Q6H:PRN anxiety/anusea 
16. ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
EVERY ___ shortness of breath 
17. TraMADol 100 mg PO BID (extended release formulation) 
18. TraMADol 50 mg PO TID:PRN Pain - Moderate 
19. CloNIDine 0.2 mg PO BID:PRN BP > 150/90 

 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN headache  
2.  Amitriptyline 100 mg PO QHS  
3.  CloNIDine 0.2 mg PO BID:PRN BP > 150/90  
4.  Creon 12 4 CAP PO QIDWMHS  
5.  Docusate Sodium 100 mg PO BID  
6.  Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line 
flush  
7.  Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port  
8.  LamoTRIgine 200 mg PO QHS  
9.  Lisinopril 20 mg PO DAILY  
10.  LORazepam 2 mg PO QHS:PRN insomnia  
11.  LORazepam 1 mg PO Q6H:PRN anxiety/anusea  
12.  Omeprazole 20 mg PO DAILY  
13.  ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
EVERY ___ shortness of breath  
14.  Promethazine 25 mg IM Q8H:PRN severe nausea  
15.  QUEtiapine Fumarate 400 mg PO BID  
16.  TraMADol 100 mg PO BID (extended release formulation)  
17.  TraMADol 50 mg PO TID:PRN Pain - Moderate  
18.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID mouth 
lesions  
19.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Chronic pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___.

Why were you here?
===========================
- You were having nausea, vomiting, and abdominal pain from your 
chronic pancreatitis.

What did we do for you?
==============================
- We gave you IV fluids and pain medicine. You were slowly able 
to take food by mouth and your pain improved, so we started your 
home medications.

What do you need to do?
=============================
- It is recommended that you follow up with your primary care 
doctor after leaving the hospital.
- As we discussed during your hospitalization, small adjustments 
to your pain protocol may be helpful for you.
- Please weight yourself daily and call your doctor if you gain 
more than 3 pounds.

It was a pleasure caring for you while you were here!

All the best,
Your ___ Medicine Team
 
Followup Instructions:
___